US09260436B2
A mixture of 1.82 g of 7-bromo-2-trifluoromethyl-2,3-dihydroimidazo[1,2-a]pyridin-2-ol hydrobromide and 10 ml of ethanol was stirred under heat-reflux for 1 day. The cooled reaction mixture was concentrated under reduced pressure, then water was added, and the mixture was extracted with ethyl acetate. The mixture was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain 1.33 g of 7-bromo-2-trifluoromethylimidazo[1,2-a]pyridine.

reactant | 7-bromo-2-trifluoromethyl-2,3-dihydroimidazo[1,2-a]pyridin-2-ol hydrobromide | 1.82 g | Br.BrC1=CC=2N(C=C1)CC(N2)(O)C(F)(F)F
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 7-bromo-2-trifluoromethylimidazo[1,2-a]pyridine | 1.33 g | BrC1=CC=2N(C=C1)C=C(N2)C(F)(F)F | C8H4BrF3N2
